US04711958
Hydrogen chloride was passed into a solution of 300 mg of (2RS, 3S)-3-amino-4-cyclohexyl-2-hydroxybutyric acid hydrochloride, which was prepared in Reference Example 2, in 5 ml of cyclopentyl alcohol with stirring under ice-cooling, and then the mixture was heated at 90° C. for 5 hours. The reaction mixture was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: chloroform/methanol=15/1 by volume). The eluate was acidified by adding hydrochloric acid, and then evaporated to dryness under reduced pressure to obtain 380 mg of (2RS, 3S)-3-amino-4-cyclohexyl-2hydroxybutyric acid cyclopentyl ester hydrochloride as a white powder.

reactant | Hydrogen chloride | Cl | ClH
reactant | (2RS, 3S)-3-amino-4-cyclohexyl-2-hydroxybutyric acid hydrochloride | 300 mg | Cl.N[C@H](C(C(=O)O)O)CC1CCCCC1
reactant | cyclopentyl alcohol | 5 ml | C1(CCCC1)O | C5H10O
product | (2RS, 3S)-3-amino-4-cyclohexyl-2hydroxybutyric acid cyclopentyl ester hydrochloride | 380 mg | Cl.C1(CCCC1)OC(C([C@H](CC1CCCCC1)N)O)=O | InChI=1S/C15H27NO3.ClH/c16-13(10-11-6-2-1-3-7-11)14(17)15(18)19-12-8-4-5-9-12;/h11-14,17H,1-10,16H2;1H/t13-,14?;/m0./s1
